US06908916B2
2-(1-{4-[1-(3-Fluoro-benzyl)-1H-indazol-5-ylamino]-pyrrolo[2,1-f][1,2,4]triazin-5-ylmethyl}-piperidin-4-ylamino)-ethanol
A mixture of [5-(4-amino-piperidin-1-ylmethyl)-pyrrolo[2,1-f][1,2,4]triazin-4-yl]-[1-(3-fluoro-benzyl)-1H-indazol-5-yl]-amine (188 mg, 0.4 mmole) and [1,3]dioxolan-2-one (352 mg, 10 equiv) in a sealed tube was heated at 100° C. for 3.5 h. The title compound was isolated by radial chromatography (2 mm silica gel plate, gradient elution with DCM containing 0 to 3% MeOH) afforded the title compound as a solid (43 mg, 21%); MS: 515 (M+H+); HPLC Ret Time: 1.29 min (YMC Xterra ODS S7 3.0×50 mm column, 2 min gradient, 5 ml/min).

reactant | [5-(4-amino-piperidin-1-ylmethyl)-pyrrolo[2,1-f][1,2,4]triazin-4-yl]-[1-(3-fluoro-benzyl)-1H-indazol-5-yl]-amine | 0.4 mmole, 188 mg | NC1CCN(CC1)CC=1C=CN2N=CN=C(C21)NC=2C=C1C=NN(C1=CC2)CC2=CC(=CC=C2)F | C26H27FN8
reactant | [1,3]dioxolan-2-one | 352 mg, 10 equiv | O1C(OCC1)=O | C3H4O3
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 2-(1-{4-[1-(3-Fluoro-benzyl)-1H-indazol-5-ylamino]-pyrrolo[2,1-f][1,2,4]triazin-5-ylmethyl}-piperidin-4-ylamino)-ethanol | FC=1C=C(CN2N=CC3=CC(=CC=C23)NC2=NC=NN3C2=C(C=C3)CN3CCC(CC3)NCCO)C=CC1 | C28H31FN8O
